US05527791
Allyl 4-allyloxy-3-nitrocinnamate was reduced by the method described in example 1 using allyl 4-allyloxy-3-nitrophenylacetate in place of allyl 3-nitrocinnamate, to give allyl 4-allyloxy-3-aminophenylacetate.

reactant | Allyl 4-allyloxy-3-nitrocinnamate | C(C=C)OC1=C(C=C(C=CC(=O)OCC=C)C=C1)[N+](=O)[O-] | C15H15NO5
reactant | allyl 4-allyloxy-3-nitrophenylacetate | C(C=C)OC1=C(C=C(C=C1)CC(=O)OCC=C)[N+](=O)[O-] | C14H15NO5
product | allyl 4-allyloxy-3-aminophenylacetate | C(C=C)OC1=C(C=C(C=C1)CC(=O)OCC=C)N | C14H17NO3
